US20010053788A1
Part B: To a solution of 1-[2-((tert-butoxycarbonyl)amino)ethyl]-3-(4-chlorophenyl)-4,5-dihydro-4-phenyl-1H-pyrazole (1.91 gram, 4.8 mmol) in dichloromethane (50 ml) was added trifluoroacetic acid (5 ml) and the resulting solution was stirred at room temperature for 5 hours. After concentration in vacuo the residue was dissolved in ethylacetate and washed with 2 N sodium hydroxide solution. The ethyl acetate layer was dried over magnesium sulfate, filtered and concentrated in vacuo to afford 1-(2-aminoethyl)-3-(4-chlorophenyl)-4,5-dihydro-4-phenyl-1H-pyrazole (1.44 gram, quantitative yield) as an oil.

reactant | 1-[2-((tert-butoxycarbonyl)amino)ethyl]-3-(4-chlorophenyl)-4,5-dihydro-4-phenyl-1H-pyrazole | 4.8 mmol, 1.91 gram | C(C)(C)(C)OC(=O)NCCN1N=C(C(C1)C1=CC=CC=C1)C1=CC=C(C=C1)Cl | C22H26ClN3O2
reactant | trifluoroacetic acid | 5 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | 1-(2-aminoethyl)-3-(4-chlorophenyl)-4,5-dihydro-4-phenyl-1H-pyrazole | 1.44 gram, quantitative yield | NCCN1N=C(C(C1)C1=CC=CC=C1)C1=CC=C(C=C1)Cl | C17H18ClN3
